US08242175B2
A mixture of (E)-3-(4-{(E)-3-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid bis-hydrochloride (350 mg, 0.756 mmol), HOBT (204 mg, 1.51 mmol), EDC (288 mg, 1.51 mmol), TEA (0.210 ml, 1.51 mmol) and NH2OTHP (106 mg, 0.907 mmol) in DMF (8 ml) was stirred overnight at room temperature and then partitioned between water and AcOEt. The phases were separated and the aqueous layer was brought to basic conditions with NH4OH and extracted with DCM. The collected organic extracts were dried over Na2SO4 and evaporated in vacuo. The crude mixture was purified by silica gel chromatography (eluent: DCM/MeOH/NH4OH 95:5:0.2) and the resulting product was dissolved in DCM and treated with HCl/Et2O for 1 h. The hygroscopic precipitate was filtered and freeze dried to give 229 mg of (E)-N-Hydroxy-3-(4-{(E)-3-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide as its bis-hydrochloride salt.

reactant | (E)-3-(4-{(E)-3-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid bis-hydrochloride | 0.756 mmol, 350 mg | Cl.Cl.CN1CCN(CC1)CC1=C(C=CC=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O
reactant | HOBT | 1.51 mmol, 204 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.51 mmol, 288 mg
reactant | NH2OTHP | 0.907 mmol, 106 mg | NOC1OCCCC1 | C5H11NO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (E)-N-Hydroxy-3-(4-{(E)-3-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide | 229 mg | ONC(\C=C\C1=CC=C(C=C1)\C=C\C(=O)C1=C(C=CC=C1)CN1CCN(CC1)C)=O | C24H27N3O3
